US09422312B2
Step 3: N′-{2-[4-(2-{[(3R,3aR,6R,6aR)-6-Hydroxy-hexahydrofuro[3,2-b]furan-3-yl]oxy}-6-chloro-3-{[2-(trimethylsilyl)ethoxy]methyl}imidazo[4,5-b]pyridin-5-yl)phenyl]pyrimidin-5-yl}-N,N-dimethyl-methanesulfonimidamide
The title compound is prepared from (3R,3aR,6R,6aR)-6-(6-chloro-5-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-3-(2-trimethylsilanyl-ethoxymethyl)-3H-imidazo[4,5-b]pyridin-2-yloxy)hexahydrofuro[3,2-b]furan-3-ol and N′-(2-chloropyrimidin-5-yl)-N,N-dimethyl-methanesulfonimidamide following a procedure analogous to that described for Intermediate 3 (Step 3). LC (method 1): tR=1.10 min; Mass spectrum (ESI+): m/z=702 [M+H]+.

reactant | (3R,3aR,6R,6aR)-6-(6-chloro-5-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-3-(2-trimethylsilanyl-ethoxymethyl)-3H-imidazo[4,5-b]pyridin-2-yloxy)hexahydrofuro[3,2-b]furan-3-ol | ClC=1C=C2C(=NC1C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)N(C(=N2)O[C@@H]2CO[C@H]1[C@@H]2OC[C@H]1O)COCC[Si](C)(C)C | C30H41BClN3O7Si
reactant | N′-(2-chloropyrimidin-5-yl)-N,N-dimethyl-methanesulfonimidamide | ClC1=NC=C(C=N1)N=S(=O)(N(C)C)C | C7H11ClN4OS
product | N′-{2-[4-(2-{[(3R,3aR,6R,6aR)-6-Hydroxy-hexahydrofuro[3,2-b]furan-3-yl]oxy}-6-chloro-3-{[2-(trimethylsilyl)ethoxy]methyl}imidazo[4,5-b]pyridin-5-yl)phenyl]pyrimidin-5-yl}-N,N-dimethyl-methanesulfonimidamide | O[C@@H]1CO[C@H]2[C@@H]1OC[C@H]2OC2=NC=1C(=NC(=C(C1)Cl)C1=CC=C(C=C1)C1=NC=C(C=N1)N=S(=O)(N(C)C)C)N2COCC[Si](C)(C)C | C31H40ClN7O6SSi
